US07342039B2
To a solution of 2-bromo-4-methyl-benzoic acid (5.50 g, 25.6 mmol) in methanol (250 mL) was added concentrated sulfuric acid (1 mL). The reaction mixture was heated to reflux overnight (approximately 16 hours), allowed to cool to room temperature and then concentrated to approximately ¼ volume under reduced pressure. The residue was then partitioned between water and ethyl acetate, the layers were separated and the aqueous layer was extracted with one additional portion of ethyl acetate. The combined organics were washed one time with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered through a plug of silica gel and concentrated under reduced pressure. 2-Bromo-4-methyl-benzoic acid methyl ester was obtained as an oil (4.95 g, 85%). To a solution of this oil (2.50 g, 10.9 mmol) in carbon tetrachloride (100 mL) was added N-bromosuccinimide (2.04 g, 11.5 mmol) and benzoylperoxide (0.106 g, 0.44 mmol). The reaction mix was heated to reflux. After approximately 1 hour, the reaction mixture became colorless. At this time the heat was removed to allow the mixture to cool to room temperature and the mixture was filtered. The filtrate was concentrated under reduced pressure. The crude mixture was purified by HPLC (40% methylene chloride in hexane) to give 2-bromo-4-bromomethyl-benzoic acid methyl ester (1.50 g, 45%) as a white powder. 1H NMR (400 MHz, CDCl3); δ 7.75 (d, 1H), 7.66 (s, 1H), 7.35 (d, 1H), 4.39 (s, 2H), 3.90 (s, 3H).

reactant | 2-bromo-4-methyl-benzoic acid | 25.6 mmol, 5.50 g | BrC1=C(C(=O)O)C=CC(=C1)C | C8H7BrO2
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 250 mL | CO | CH4O
product | 2-Bromo-4-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C)Br)=O | C9H9BrO2
